US04895861
(Step 2) Preparation of 3-Methoxy-3-(2-naphthalenyl)propionitrile
To a suspension of NaH (1.50 g, 37.5 mmol, 60% dispersion) in dry THF (200 mL) cooled to 0° C. was added 3-hydroxy-3-(2-naphthalenyl)propionitrile (4.92 g, 25 mmol) in THF (50 mL) dropwise over 20 minutes. The resulting solution was stirred at 0° C. for 5 minutes and dimethylsulfate (4.72 g, 37.5 mmol) was added in one portion. The reaction mixture was stirred at 0° C. for 20 minutes and room temperature for 1.5 hours. The reaction was then diluted with H2O (50 mL) and the volatiles were removed in vacuo. The residue was partitioned between CH2Cl2 (250 mL) and H2O (200 mL). The aqueous phase was extracted with CH2Cl2 (1×250 mL), the combined organic layers dried (Na2SO4) and concentrated in vacuo to give a thick yellow oil. This was purified by preparative HPLC (SiO2 : gradient EtOAc/hexane) to give the product as a light yellow oil (4.58 g, 87%).

reactant | NaH | 37.5 mmol, 1.50 g | [H-].[Na+]
reactant | 3-hydroxy-3-(2-naphthalenyl)propionitrile | 25 mmol, 4.92 g | OC(CC#N)C1=CC2=CC=CC=C2C=C1 | C13H11NO
reactant | dimethylsulfate | 37.5 mmol, 4.72 g | COS(=O)(=O)OC | C2H6O4S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | 3-Methoxy-3-(2-naphthalenyl)propionitrile | 4.58 g, 87% | COC(CC#N)C1=CC2=CC=CC=C2C=C1 | C14H13NO
